US04845293
Preparation of 4-chloro-2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene
0.22 mole (50 g) of 2,4,6-trichloronitrobenzene is added in portions to 150 ml of 3-amino-1-propanol heated to 80° C., with stirring. Heating is continued for 1 hour 30 minutes after the addition is complete. The reaction medium is poured into 300 g of ice-cold water. An oil which crystallizes on adding concentrated hydrochloric acid is obtained. The precipitate of the expected product is drained, washed with a 2N solution of hydrochloric acid and then with water to neutrality. After drying at 40° C. in the presence of phosphorous pentoxide, it is recrystallized from 96° ethanol. It melts at 127° C.

reactant | 2,4,6-trichloronitrobenzene | 0.22 mole, 50 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 3-amino-1-propanol | 150 ml | NCCCO | C3H9NO
product | 4-chloro-2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCCO)[N+](=O)[O-])NCCCO | C12H18ClN3O4
